### PR TITLE
[Merged by Bors] - chore(Tactic): rewrite `rify` tactic docstring

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR rewrites the docstrings for the `rify` tactic, to consistently match the official style guide, to make sure they are complete while not getting too long: https://github.com/leanprover/lean4/blob/master/doc/style.md#tactics

In particular, the contents and structure of `rify`'s docstring should match those of `qify` and `zify`, of #37765.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
I think it is worth to have an example where `zify` or `qify` are not enough, like
```lean
import Mathlib

open Real

example (a b : ℕ) (ha : π ≤ a) : 3 ≤ a + b := by
  rify
  linarith [pi_gt_three]
```

Thanks!

bors d+

File: Mathlib/Tactic/Rify.lean [hunk 1]
```diff
@@ -44,32 +44,41 @@ open Lean.Parser.Tactic
...
+variable.
+
+* `rify at l1 l2 ...` rewrites at the given locations.
+* `rify [h₁, ..., hₙ]` uses the expressions `h₁`, ..., `hₙ` as extra lemmas for simplification.
+  This is especially useful in the presence of nat subtraction or of division: passing arguments of
+  type `· ≤ ·` or `· ∣ ·` will allow `push_cast` to do more work.
+
+Examples:
 ```
+/--
```
Comment (Vierkantor) [inline Mathlib/Tactic/Rify.lean:67]:
```suggestion
/--
import Mathlib

open Real
```

File: Mathlib/Tactic/Rify.lean [hunk 2]
```diff
@@ -44,32 +44,41 @@ open Lean.Parser.Tactic
...
-
-`rify` can be given extra lemmas to use in simplification. This is especially useful in the
-presence of nat subtraction: passing `≤` arguments will allow `push_cast` to do more work.
-```
+-- Extra hypotheses allow `push_cast` to do more work.
 example (a b c : ℕ) (h : a - b < c) (hab : b ≤ a) : a < b + c := by
-  rify [hab] at h ⊢
+  rify [hab] at h ⊢ -- Here `zify` or `qify` would have also worked.
   linarith
 ```
```
Comment (Vierkantor) [inline Mathlib/Tactic/Rify.lean:87]:
````suggestion

example (a b : ℕ) (ha : π ≤ a) : 3 ≤ a + b := by
  rify
  linarith [pi_gt_three]
```
````

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
